US08303844B2
10.5 g (46.8 mmol) of 6-ethoxy-3,4-difluoronaphthalen-2-ol are initially introduced in 100 ml of THF together with 10.0 g (55.5 mmol) of 1-(4-propylcyclohexyl)prop-2-yn-1-ol and 15.0 g (57.2 mmol) of triphenylphosphine, and 11.5 ml (59.1 mmol) of DIAD are added over the course of 20 min with ice-cooling. After 18 h at RT, water is added, and the mixture is extracted a number of times with MTBE. The combined organic phases are washed with water and saturated sodium chloride soln., and the solution is dried using sodium sulfate. The residue remaining after removal of the solvents is purified by column chromatography (SiO2, n-heptane:MTBE=2:1). The further purification is carried out by recrystallisation from n-heptane, giving 7-ethoxy-1,2-difluoro-3-[1-(4-propylcyclohexyl)prop-2-ynyloxy]naphthalene as a yellowish solid.

reactant | 6-ethoxy-3,4-difluoronaphthalen-2-ol | 46.8 mmol, 10.5 g | C(C)OC=1C=C2C(=C(C(=CC2=CC1)O)F)F | C12H10F2O2
reactant | 1-(4-propylcyclohexyl)prop-2-yn-1-ol | 55.5 mmol, 10.0 g | C(CC)C1CCC(CC1)C(C#C)O | C12H20O
reactant | triphenylphosphine | 57.2 mmol, 15.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 59.1 mmol, 11.5 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 7-ethoxy-1,2-difluoro-3-[1-(4-propylcyclohexyl)prop-2-ynyloxy]naphthalene | C(C)OC1=CC=C2C=C(C(=C(C2=C1)F)F)OC(C#C)C1CCC(CC1)CCC | C24H28F2O2
